15
R0100 1 0 1E+3
R0203 2 3 1E+3
R0402 4 2 1E+3
R0504 5 4 1E+3
R0105 1 5 1E+3
R0603 6 3 1E+3
R0701 7 1 1E+3
R0809 8 9 1E+3
R1011 10 11 1E+3
R1208 12 8 1E+3
R1310 13 10 1E+3
R0614 6 14 1E+3
R1206 12 6 1E+3
R1512 15 12 1E+3
R1315 13 15 1E+3
R0713 7 13 1E+3
C0902 9 2 9.32778700555236E-7
C1105 11 5 1.4031540561078E-6
C1503 15 3 1.7274276550171E-6
C0115 1 15 5.79956913281569E-7
C0603 6 3 3.97974815527259E-6
C1504 15 4 5.69845860607148E-6
C0701 7 1 3.51512140879876E-6
C0406 4 6 1.7274276550171E-6
C0704 7 4 5.79956913281569E-7
O0900 9 0 2 0
O1100 11 0 5 0
O0300 3 0 6 0
O0400 4 0 15 0
O0100 1 0 7 0
O1200 12 0 8 0
O1300 13 0 10 0
V1400 14 0 1
.AC DEC 100 0.1 10000
